Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
"I've felt out of control"
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
"On interview today, patient explains that 5 days ago she began 
to feel that her depression was worsening and that she was 
having trouble taking care of herself. She states that today she 
was planning on getting on a plane to go to ___ to spend 
time with her family but became overwhelmed with anxiety and 
depression. Patient reports some passive SI with concern that 
she is losing control and might do something to harm herself 
unintentionally and "didn't trust myself". She denies intent or 
plan. Patient is a resident assistant in the dorms at ___ and 
last night one of her students/friends came to her with suicidal 
thoughts and she had to file a report. She says that recently 
two students have came to her with SI and as the RA she had to 
handle these situations and felt that the school didn't have 
many resources to help. She reports that once she took a while 
to file the report because she felt that she didn't know what 
she was doing and got into trouble with this. She says that this 
made her feel very guilty and that she has personal 
responsibility. These reports of SI from students were 
particularly disturbing to the patient because she states that ___ 
years ago three of her students/friends died by suicide and had 
jumped out of the window of her dorm building. She reported to 
ED staff that she had found the body of one of the students. 
Patient states these recent reports of SI from students has 
brought some of those memories back and that she never really 
processed them because during the time it happened she just put 
herself into work. Patient states that although she hasn't 
considered it a plan, she says because she knew students who 
jumped off the building that that "presents itself as option" 
although denies intent. Patient then later told the attending 
psychiatrist that she worried she might return to the building 
where the students had jumped and that she might harm herself. 
Patient says that last night she was getting ready for her trip 
to ___ where she plans to stay for some time so she wrote 
notes to her friends saying goodbye. She states that she was not 
writing these notes to say goodbye as a suicide note or that she 
was not planning to see them again, but as a short goodbye she 
was leaving for ___. Patient says that she then felt like 
she was just being attention seeking after she gave them these 
notes and began to "get down on myself". Patient reported she 
planned to move to ___ because school wasn't working out 
for her and that she was failing some classes. She says that she 
called her mom on ___ later that night and began to try to 
pack but couldn't. While on ___ with her mom, patient decided 
to call the ___ counseling hotline and then later the ___ police. 
She says that she went voluntarily with the police because she 
felt that she might need to be "committed inpatient".
.
Patient endorses having multiple mood swings throughout the day 
where she will be very happy and then very depressed. She says 
the feelings of happiness will last a couple of hours and are 
often when she is around people. She says that yesterday she was 
happy and dancing around with her friends but later that night 
began to feel hopeless, worthless, and guilty about being 
attention seeking and about her responsibility towards her 
students. She endorses poor sleep that is fragmented. She says 
she will often pull all nighters but feels fatigued and not 
productive during these times. She states that at times she has 
felt that she had grand ideas, was talking fast, and performing 
risky behaviors such as spending excess money on dinners for her 
friends when she was feeling anxious or happy. Patient denies 
increase in goal directed behavior at any time. She endorses 
poor motivation and hasn't been completing her school work and 
struggling with classes for the past year. She states that she 
no longer enjoys Cello, which is her major, anymore and no 
longer enjoys her previous hobby of running. She endorses poor 
appetite often forgetting to eat for the entire day, reports 
around a 10lb weight loss over the last semester, and that 
people have commented on her weight loss. Patient also notes 
recently becoming nauseated often instead of anxious and will 
vomit a ___ a time a few times a week. Patient endorses chest 
pain related to anxiety as well as alternating diarrhea and 
constipation. She denies AVH. She reports that she has been 
managing her hygiene/showering. Patient states that she would 
like some help and says that if she went home today she would 
afraid she would get lost on her way home and would feel that 
she wouldn't be able to care of herself."
.
.
.
On presentation to Deac4, patient was amenable to being 
interviewed, and she was calm, cooperative, and forthcoming. She 
corroborated HPI detailed above. Reports being in "denial" about 
being depressed for past ___ years. Initially dismissed 
neurovegetative symptoms like "sleeping in until 7pm" and would 
blame herself for being "lazy." Over the past year she has 
experienced decreased motivation / increased procrastination as 
well as decreased concentration. This has interfered w/ her 
academics as she reports having difficulty completing 
assignments on time. Of note, patient became tearful when 
detailing incident in which a student had disclosed SI to 
patient but patient did not report per protocol. She was tearful 
as she described her supervisor as "livid" and she notes that 
the room in which she received this feedback was the same one in 
which she had reviewed her friend's suicide notes (this is one 
of the three individuals who had committed suicide during 
patient's time at ___). Patient also appeared to be tearful ___ 
expressing guilt that she had minimized or normalized the 
student's SI given patient was experiencing her own depressive 
symptoms. Of note, regarding the three ___ suicides, patient 
denies finding the body of any of these individuals and 
clarifies that she was at the library on the same floor as the 
student who had jumped. She remembers seeing an unattended 
laptop at a workstation near an opened window and recalls 
thinking that perhaps that individual had jumped given he or she 
had left his or her things unattended for so long. She does 
mention that some students had taken photos of the deceased 
individual and that she saw the photos.
.
More recently, over the past semester, she describes her sleep 
as "terrible." She estimates she sleeps 7 to 8 hours and has 
been increasingly napping during the day. She reports "pulling 
all nighters" about twice a week to complete assignments and 
feels tired afterwards. She has noticed worsening anxiety that 
manifests itself w/ physical symptoms e.g. n/v that appears to 
occur prior to or immediately after social interactions. Patient 
notes she has lost weight recently and attributes this to 
reduced appetite ___ n/v as well as to attempting to save money 
on food. She denies purposefully restricting food intake and 
states she has a "positive body image" for which she is 
"thankful." Of note, patient was eating dinner prior to this 
interview and endorses having an appetite. At this time patient 
denies SI or HI but reports continuing to feel unsafe and 
feeling as though she needs an inpatient psychiatric 
hospitalization to properly address her anxiety and depressive 
symptoms. She denies AVH, IOR, TB, TI, and does not appear to be 
responding to internal stimuli. She has not been experiencing 
nightmares or flashbacks and previously did not consider her 
exposure to suicides traumatic but is reconsidering whether they 
were indeed traumatic. 
.
.
.
Collateral Contacts: 
#Per Dr. ___ ___ ED Note: "Collateral 
provided by ___ from ___ counseling services (___) 
reports that patient called the ___ PD on own her stating that 
she thought she would harm herself this morning. She felt that 
she was becoming a danger to herself but denied a plan. Patient 
was agreeable to go to hospital voluntarily. Patient reported 
that she was skyping with her mom all night and had a plane 
ticket to go to ___ today but felt too unsafe to go. 
Patient explained that she was having difficulty with school 
work. Patient has been seeing a therapist and had recently 
called a "hotline" of some sort. 

#Therapist, ___ Patient's therapist ___ reports 
that yesterday when she talked with patient that she sounds very 
"forward thinking" and that patient had plans to go to visit 
family in ___ the following day. Patient had talked about 
taking time off school and going to ___ where she would 
only return in ___ for a concert and then likely return to 
___. Therapist stated that at that patient seemed okay and 
did not report any SI. Overnight, therapist states that patient 
appears to have had a rapid shift. The therapist says reading 
back through her notes she thinks it's possible the patient may 
have bipolar type II due to fluctuating moods and concerns for 
hypomania in the past. Symptoms of elevated moods, fluctuating 
moods, and often having "all nighters" where patient did not 
sleep. Today therapist states that it's hard to say if patient 
would be safe from her standpoint and that she was unsure what 
would be the best plan for her at this time. She states that the 
patient has been "forward thinking" when emailing with her today 
but therapist stated "I'm not totally confident she would be 
safe"." 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Hospitalizations: Denies Current 
treaters and treatment: ___ (therapist); does not 
have a psychiatrist Medication and ECT trials: Denies 
Self-injury: Denies Harm to others: Denies Access to weapons: 
Denies

PAST MEDICAL HISTORY: - Unspecified anxiety d/o - Reports NKDA - 
Reports allergy to bee stings

CURRENT MEDICATIONS: - Patient denies taking medications 
currently

SUBSTANCE ABUSE HISTORY: - EtOH: Reports ___ drinks a night ___ 
times a week at parties. states that last year she felt drinking 
was a problem for her and cut back in hopes that things would 
improve but it did not. she says that she has blacked out 
numerous times. last black out was in ___. Denies drinking 
alone. - Tobacco: denies current use. states she stopped using a 
___ this ___ and had used one for 6 months. - Cannabis: 
denies - Illicits: reports using cocaine a few times, last use 
was in ___. 

FORENSIC HISTORY: ___
terms: denies - Current status (pending charges, probation, 
parole): n/a - Access to guns: denies 
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: - Reports that she suspects her 
father has depression and mother has bipolar disorder due to 
fluctuating mood. - Reports paternal aunt who attempted suicide 
but denies knowledge of completed suicides
 
Physical Exam:
VITAL SIGNS
___ Temp: 98.0 PO BP: 119/86 HR: 93 RR: 16 O2 sat: 96% 


EXAM:
-HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear.
-Cardiovascular: Regular rate and rhythm, normal S1,S2, no
murmurs/rubs/gallops.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales.
-Abdominal: Normoactive bowel sounds. Abdomen soft, nontender,
nondistended. No guarding, no rebound tenderness.
-Extremities: Warm and well-perfused. No edema of the limbs.
-Skin: No bruising, rashes or lesions noted
Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: pupils 3mm, equal, round, reactive to light
---III, IV, VI: extraocular movements not tested
---V: Masseter ___ bilaterally
---VII: nasolabial folds symmetric bilaterally
---VIII: Hearing intact to conversation
---IX, X: Palate elevates symmetrically
---XI:  trapezii ___ symmetric bilaterally
---XII: Tongue protrudes midline
-Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps.
-Sensory: deferred
-DTRs: deferred
___: Normal on finger to nose test, no intention tremor
noted.
-Gait: narrow based, normal initiation, arm swing
Absence of resting tremor,
Absence of rigidity or spasticity
Absence of asterixis 

Cognition:
-Wakefulness/alertness: Awake and alert
-Attention: WORLD backwards backwards w/ 0 errors
-Orientation: BI, ___ ___
-Executive function: absence of ideomotor apraxia: able to brush
teeth, comb hair
-Memory: immediate memory intact; ___ recall
-Fund of knowledge: intact to past 3 presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: watch/ruler "both measure"
-Visuospatial: deferred
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance/Behavior: woman appearing stated age, wearing
hospital gown, good hygiene, wearing glasses, NAD; no PMA or PMR
-Attitude: cooperative, forthcoming
-Mood: "Disoriented"
-Affect: reactive, mood congruent e.g. tearful when discussing
guilt, slightly dysphoric at times, no lability noted
-Speech: not pressured, normal volume, normal rate, normal tonal
variation
-Thought process: linear, goal-oriented, reality-based, no LOA
-Thought Content:
---Safety: denies SI/HI
---Delusions: No evidence of delusions
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: denies AVH
-Perceptual disturbances: does not appear to be responding to
internal stimuli
-Insight: limited
-Judgment: limited
 
Pertinent Results:
___ 10:48AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 10:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:30AM URINE  UCG-NEGATIVE

___ 10:48AM   WBC-5.4 RBC-3.84* HGB-10.9* HCT-34.4 MCV-90 
MCH-28.4 MCHC-31.7* RDW-13.0 RDWSD-42.5
___ 10:48AM   NEUTS-50.8 ___ MONOS-8.2 EOS-3.4 
BASOS-0.7 IM ___ AbsNeut-2.73 AbsLymp-1.97 AbsMono-0.44 
AbsEos-0.18 AbsBaso-0.04
___ 10:48AM   GLUCOSE-99 UREA N-5* CREAT-0.6 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-108 TOTAL CO2-20* ANION GAP-13
 
Brief Hospital Course:
LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

PSYCHIATRIC:
On admission to the unit patient endorsed neurovegetative 
symptoms for the past ___ years including insomnia, amotivation, 
decreased concentration, loss of interest, guilt, poor mood in 
the setting of stress at school. Additionally patient endorses 
ruminative thoughts and somatic manifestations of anxiety 
including diarrhea and nausea leading to vomiting in the setting 
of stress and social situations. Patient denied restricting, 
purging, hypervigilance, nightmares, flashbacks. Increasing 
severity and acuity of symptoms attributed to recent perceived 
failures at job at school and work. On mental status exam 
patient is slightly dysphoric, intermittently and appropriately 
tearful, full, linear and goal directed with mild perseveration, 
no compulsion, obsessions, delusions noted. Limited insight and 
fair judgment. 

Differential diagnosis includes major depressive disorder with 
anxious distress vs. MDD and concurrent GAD. There appears to be 
an acute affective component to patient's distress though 
additional outpatient treatment may provide additional 
diagnostic clarification regarding the persistence/uncovering of 
personality traits once affective mood disorder is in remission. 
Most likely diagnosis is major depressive disorder with anxious 
distress. 

We engaged in a discussion of risk and benefit of SSRI treatment 
with patient and mother. They did not choose to start 
psychiatric medication. We provided individual psychotherapy as 
well as group therapy. We conducted a family meeting and 
discussed presentation as well as  treatment and discharge 
planning. Patient and family plan is for patient to return to 
live with Mother in ___. Coordination with social work 
assisted patient in referral to a partial program near patient's 
mother's home. We discussed safety and discharge planning with 
patient and mother. We provided prescriptions for hydroxyzine 
25mg BID:PRN as needed for anxiety after discussion in discharge 
meeting.  

On discharge patient endorsed subjective improvement in mood, 
sleep, and anxiety. She reports feeling more optimistic and is 
future oriented. Patient denies suicidal ideation. Mental status 
exam is notable for a mildly anxious, full, reactive, 
appropriate affect, linear, goal directed mildly ruminative 
thought process. There is no evidence of obsessions or 
compulsions or paranoia. Patient's insight is fair and judgment 
is fair to good. 

Future interventions include ongoing discussion regarding risk 
and benefit of SSRI in the outpatient setting. Recommend 
engagement in regular exercise, utilization and practice of 
meditation. Recommend referral from partial in ___ to a 
psychologist for qWeekly psychotherapy. Patient may benefit from 
DBT based therapy.

SUBSTANCE USE DISORDERS:
none identified 
 
MEDICAL
mild normocytic anemia likely in setting of recent weight loss. 
Medically cleared in the emergency department. Please follow up 
with outpatient PCP for routine medical appointment/preventive 
visits. 

PSYCHOSOCIAL
#GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.  Patient was polite, socially 
appropriate, to other patients and staff. 

#COLLATERAL CONTACTS & FAMILY INVOLVEMENT
- We obtained collateral from outpatient treaters.
- We obtained collateral from outpatient family/social supports
- We conducted a family meeting

#INTERVENTIONS
- Medications: hydroxyzine 25 mg BID:PRN
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy. 
- Coordination of aftercare: partial program
- Behavioral Interventions: family meeting
-Guardianships: none

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
suicidal ideation. Her static factors noted at that time include 
chronic mental illness, ?concurrent personality disorder. The 
modifiable risk factors were also addressed at that time 
suicidal ideation, limited coping skills, insomnia, lack of 
purpose. We conducted a family meeting, provided individual and 
group therapy, established referral to an outpatient partial 
program. Finally, the patient is being discharged with many 
protective risk factors, help-seeking nature, future-oriented 
viewpoint, life satisfaction, lack of suicidal ideation, strong 
social supports.  Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO BID:PRN anxiety / insomnia 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth up to twice a day as 
needed Disp #*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder
Generalized anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___